* d:\esim\esim_workspace\masterslavedff\masterslavedff.cir

.include smttrigger21.sub
.include 3stcmringosci13.sub
.include "D:\esim\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "D:\esim\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "D:\esim\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.lib "D:\esim\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "D:\esim\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "D:\esim\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "D:\esim\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ kishan_masterslavedff
v3  d gnd pulse(0 3.3 0 0 0 85n 170n)
v2  rst gnd pulse(0 3.3 0 0 0 50n 450n)
* u2  clk rst d net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ adc_bridge_3
* u3  net-_u1-pad4_ q dac_bridge_1
* u7  q plot_v1
* u4  clk plot_v1
* u5  rst plot_v1
* u6  d plot_v1
* s c m o d e
x1 net-_x1-pad1_ net-_u10-pad~_ net-_u9-pad~_ net-_u8-pad~_ 3stcmringosci13
x2 net-_u10-pad~_ net-_x1-pad1_ clk smttrigger21
v1 net-_x1-pad1_ gnd  dc 3.3
* u10  net-_u10-pad~_ plot_v1
* u9  net-_u9-pad~_ plot_v1
* u8  net-_u8-pad~_ plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] u1
a2 [clk rst d ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ] u2
a3 [net-_u1-pad4_ ] [q ] u3
* Schematic Name:                             kishan_masterslavedff, NgSpice Name: kishan_masterslavedff
.model u1 kishan_masterslavedff(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 10e-09 1e-06 0.5e-06

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(q)
plot v(clk)
plot v(rst)
plot v(d)
plot v(net-_u10-pad~_)
plot v(net-_u9-pad~_)
plot v(net-_u8-pad~_)
.endc
.end
